US08476301B2
2-[(3R*,4S*)-1-{[2-Chloro-6-(trifluoromethyl)phenyl]methyl}-3-{[1-(cyclohex-1-en-1-ylmethyl)piperidin-4-yl]carbamoyl}-4-methylpyrrolidin-3-yl]acetic acid
Cyclohex-1-ene-1-carbaldehyde (423 μl, 3.73 mmol), acetic acid (300 μl) and sodium triacetoxyborohydride (789 mg, 3.73 mmol) were added to a solution of the mixture of 2-[(3R*,4S*)-1-{[2-chloro-6-(trifluoromethyl)phenyl]methyl}-4-methyl-3-[(piperidin-4-yl)carbamoyl]pyrrolidin-3-yl]acetic acid obtained by the method of Example 3d (344 mg, 0.745 mmol) in tetrahydrofuran (dehydrated) (10 mL), followed by stirring overnight. Water and methanol were added to the reaction liquid, which was concentrated under reduced pressure, and the residue was purified by ODS column chromatography (elution solvent: water/methanol). The purified product was dissolved in dichloromethane, suspended by adding hexane and concentrated to give the title compound (180 mg, yield: 43.4%).

reactant | Cyclohex-1-ene-1-carbaldehyde | 3.73 mmol, 423 μl | C1(=CCCCC1)C=O | C7H10O
reactant | acetic acid | 300 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.73 mmol, 789 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2-[(3R*,4S*)-1-{[2-chloro-6-(trifluoromethyl)phenyl]methyl}-4-methyl-3-[(piperidin-4-yl)carbamoyl]pyrrolidin-3-yl]acetic acid | ClC1=C(C(=CC=C1)C(F)(F)F)CN1C[C@@]([C@@H](C1)C)(C(NC1CCNCC1)=O)CC(=O)O | C21H27ClF3N3O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
product | 2-[(3R*,4S*)-1-{[2-Chloro-6-(trifluoromethyl)phenyl]methyl}-3-{[1-(cyclohex-1-en-1-ylmethyl)piperidin-4-yl]carbamoyl}-4-methylpyrrolidin-3-yl]acetic acid | 180 mg, yield: 43.4% | ClC1=C(C(=CC=C1)C(F)(F)F)CN1C[C@@]([C@@H](C1)C)(C(NC1CCN(CC1)CC1=CCCCC1)=O)CC(=O)O | C28H37ClF3N3O3
